US07671033B2
Preparation of 4-Tetradecyloxybenzyl Chloride
This one was synthesized following the same general procedure as that for the preparation of 4-dodecyloxybenzyl chloride; thionyl chloride (7.45 g, 63.1 mmol), 4-tetradecyloxybenzyl alcohol (18.4 g, 57.4 mmol), CH2Cl2 (150 mL). 16.28 g (84%) white solid which decomposes upon melting.

reactant | 4-dodecyloxybenzyl chloride | C(CCCCCCCCCCC)OC1=CC=C(CCl)C=C1 | C19H31ClO
reactant | thionyl chloride | 63.1 mmol, 7.45 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-tetradecyloxybenzyl alcohol | 57.4 mmol, 18.4 g | C(CCCCCCCCCCCCC)OC1=CC=C(CO)C=C1 | C21H36O2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Tetradecyloxybenzyl Chloride | C(CCCCCCCCCCCCC)OC1=CC=C(CCl)C=C1 | C21H35ClO
